US08686024B2
Synthesis of 1-benzylindolin-5-yl 2,3-dihydro-1-benzofuran-5-ylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (35.0 mg, 0.155 mmol) using the same procedure employed for Example 2 (2), but with 2,3-dihydro-1-benzofuran-5-ylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (9.0 mg, 13%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.155 mmol, 35.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 2,3-dihydro-1-benzofuran-5-ylisocyanate | O1CCC2=C1C=CC(=C2)N=C=O | C9H7NO2
product | 1-benzylindolin-5-yl 2,3-dihydro-1-benzofuran-5-ylcarbamate | O1CCC2=C1C=CC(=C2)NC(OC=2C=C1CCN(C1=CC2)CC2=CC=CC=C2)=O | C24H22N2O3
